US07968570B2
A solution of 5-bromomethyl-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one (50 mg, 0.12 mmol) in acetonitrile (3 mL) was added drop wise to N-methylbenzylamine (24 mg, 0.2 mmol) and diisopropylethylamine (0.17 mL, 1 mmol) in acetonitrile (5 mL). After 4 hours the reaction was evaporated. The residue was chromatographed on silica gel, eluting with 0 to 25% ethyl acetate in methylene chloride, to give 45 mg (83% yield) of 5-[(benzylmethylamino)methyl]-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one as a colorless oil. 1H NMR (300.132 MHz, CDCl3) δ 7.37-7.28 (m, 6H), 7.25-7.14 (m, 5H), 4.75 (s, 2H), 4.21 (s, 2H), 3.53 (s, 2H), 3.52 (s, 2H), 2.74 (s, 3H), 2.18 (s, 3H).

reactant | 5-bromomethyl-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one | 0.12 mmol, 50 mg | BrCC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C18H15BrF3NO2
reactant | N-methylbenzylamine | 0.2 mmol, 24 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | diisopropylethylamine | 1 mmol, 0.17 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5-[(benzylmethylamino)methyl]-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one | 45 mg, 83% yield | C(C1=CC=CC=C1)CNCC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C26H25F3N2O2
